US08026234B2
Compound 17: 9-cyclopentyl-2-(4-(2-(dimethylamino)ethoxy)phenylamino)-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
The title compound was synthesized using an analogous procedure to that described in connection with 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid from 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one and 4-(2-(dimethylamino)ethoxy)aniline. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.44-1.79 (m, 6H) 1.93 (br. s, 2H) 2.20 (s, 6H) 2.59 (t, J=5.81 Hz, 2H) 3.32 (s, Hz, 3H) 3.88-4.10 (m, 4H) 4.68 (t, J=8.34 Hz, 1H) 6.85 (d, J=8.84 Hz, 2H) 7.55 (d, J=9.09 Hz, 2H) 8.18 (s, 1H) 9.20 (s, 1H). [M+H] calc'd for C23H30F2N6O2, 461. found 461.

reactant | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one | ClC=1N=CC=2N(C(C(CN(C2N1)C1CCCC1)(F)F)=O)C | C13H15ClF2N4O
reactant | 4-(2-(dimethylamino)ethoxy)aniline | CN(CCOC1=CC=C(N)C=C1)C | C10H16N2O
product | 9-cyclopentyl-2-(4-(2-(dimethylamino)ethoxy)phenylamino)-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC=C(C=C2)OCCN(C)C | C23H30F2N6O2
